US04410520
A solution of ethyl 2-amino-4-(2-aminophenyl)butyrate (35.0 g) in methanol (100 ml) was added to a solution of sodium methoxide in methanol [prepared from sodium (1.0 g) and methanol (400 ml)] with stirring, under a nitrogen atmosphere. The reaction mixture was refluxed for 65 hours and evaporated under reduced pressure. The residue was distributed between water (100 ml) and dichloromethane (400 ml). The aqueous solution was extracted with dichloromethane (400 ml), and the combined organic solutions washed with water (100 ml) and dried over magnesium sulfate. Evaporation to dryness and trituration with ether (250 ml) gave 3-amino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, m.p. 161°-162° C.

reactant | ethyl 2-amino-4-(2-aminophenyl)butyrate | 35.0 g | NC(C(=O)OCC)CCC1=C(C=CC=C1)N | C12H18N2O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 400 ml, 1.0 g | CO | CH4O
product | 3-amino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | NC1C(NC2=C(CC1)C=CC=C2)=O | C10H12N2O
